US07915259B2
2-(4-Bromophenoxy)ethanol (4)
To a sol. of 4-bromophenol (40 g, 231 mmol) in EtOH (140 mL) was added NaOH (10.2 g, 254 mmol). The resulting mixture was stirred at 70° C. for 30 min until the whole amount of NaOH had dissolved. A sol. of 2-bromoethanol (17.3 mL, 231 mmol) in EtOH (40 mL) was added dropwise at 70° C. The sol. rapidly turned milky. The mixture was heated to reflux overnight. The solvents were removed under reduced pressure, and the residue was dissolved in EtOAc. The mixture was washed with water and brine, dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 1:5→1:4→1:3→1:2→EtOAc) yielded the title compound (39.2 g, 78%) as a pale brown oil that crystallized when placed at −18° C. Rf=0.3 in (EtOAc/heptane 1:1).

reactant | 4-bromophenol | 231 mmol, 40 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | NaOH | 254 mmol, 10.2 g | [OH-].[Na+]
reactant | 2-bromoethanol | 231 mmol, 17.3 mL | BrCCO | C2H5BrO
solvent | EtOH | 140 mL | CCO | C2H6O
solvent | EtOH | 40 mL | CCO | C2H6O
product | 2-(4-Bromophenoxy)ethanol | 39.2 g, 78% | BrC1=CC=C(OCCO)C=C1 | C8H9BrO2
